US04030925
29. 2-(4-Nitrophenyl)-1-trifluoroacetylhydrazine
4-Nitrophenylhydrazine (7.6 g, 0.05 mole) was mixed with benzene (150 ml) and the resulting mixture was stirred under nitrogen at room temperature. A solution of trifluoroacetic anhydride (10.5 g, 0.05 mole) in benzene (50 ml) was added dropwise. The mixture was stirred vigorously as a thick yellow solid precipitated out. After the addition was complete, the mixture was stirred for one more hour at room temperature. The mixture was filtered and the solid was washed with benzene and then allowed to dry. Yield 12.2 g (97%), m.p. 115°-117° C.

reactant | 4-Nitrophenylhydrazine | 0.05 mole, 7.6 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | trifluoroacetic anhydride | 0.05 mole, 10.5 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 2-(4-Nitrophenyl)-1-trifluoroacetylhydrazine | [N+](=O)([O-])C1=CC=C(C=C1)NNC(C(F)(F)F)=O | C8H6F3N3O3
